US06608203B2
2-Benzenesulfonyl-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinolin-6-ol
A mixture of 2-benzenesulfonyl-6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline (0.043 g, 0.08 mmol), ammonium formate (0.096 g, 1.52 mmol), and 20% Pd(OH)2/C (0.025 g) in MeOH (10 ml) was refluxed under N2 for 1 hr, then filtered through Celite. The filtrate was evaporated in vacuo to a white residue that was dissolved in CH2Cl2 (10 ml) and washed with 1M NaOH (5 ml). The aqueous layer was extracted with CH2Cl2 (3×10 ml), and all of the combined organic solutions were dried over MgSO4 and concentrated in vacuo to give 0.026 g (72% yield) of colorless residue.

reactant | 2-benzenesulfonyl-6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline | 0.08 mmol, 0.043 g | C1(=CC=CC=C1)S(=O)(=O)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCCC1 | C34H36N2O4S
reactant | ammonium formate | 1.52 mmol, 0.096 g | C(=O)[O-].[NH4+]
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd(OH)2/C | 0.025 g | [OH-].[OH-].[Pd+2]
product | 2-Benzenesulfonyl-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinolin-6-ol | 0.026 g, 72% yield | C1(=CC=CC=C1)S(=O)(=O)N1C(C2=CC=C(C=C2CC1)O)C1=CC=C(C=C1)OCCN1CCCC1 | C27H30N2O4S
